US03935314
2-(5,6-dichloro-2-benzimidazolyl) amino-2-imidazoline
2-(2-Benzimidazolyl) amino-2-imidazoline dihydrochloride (13.7g, 0.05 mol) was dissolved in concentrated hydrochloric acid (100 ml) and water (100 ml). The solution was stirred and heated to 70°C. A 10% solution of hydrogen peroxide (27 ml) was added dropwise over 10 minutes resulting in precipitation of a white solid. Water (100 ml) was added to cool the reaction mixture to 60°C. A further quantity of 10% hydrogen peroxide (10.5 ml; 10% excess in all) was added. The reaction mixture was heated to 80°C for 15 minutes, and filtered whilst hot to give a solid m.p. 265°-272°C. The filtrate was cooled to give more solid m.p. 285°-292°C. Finally evaporation of the mother liquors in vacuo yielded a third quantity. All 3 solids were combined and recrystallised twice from water to yield 2-(5,6-Dichloro-2-benzimidazolyl) amino-2-imidazoline hydrochloride (7.86g; 53%) as colourless microcrystals m.p. 279° -281°C.

reactant | 2-(2-Benzimidazolyl) amino-2-imidazoline dihydrochloride | 0.05 mol, 13.7g | Cl.Cl.N1=C(NC2=C1C=CC=C2)NC=2NCCN2
reactant | hydrogen peroxide | 27 ml | OO | H2O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 2-(5,6-dichloro-2-benzimidazolyl) amino-2-imidazoline | ClC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1Cl | C10H9Cl2N5
